US06562989B2
N-(4-tert-butylphenyl)morpholine (Table 3, Entry 4)
According to the general procedure B, 4-tert-butylbromobenzene (94 mg, 0.44 mmol) reacted with morpholine (36 mg, 0.41 mmol) using 1 mol % of catalyst and sodium tert-butoxide (42 mg, 0.44 mmol) at 100° C. for 21 h to give the title compound (72 mg, 82%) as a white solid: 1H-NMR (300 MHz, CDCl3): δ 7.35 (d, 2H, J=8.7 Hz), 6.91 (d, 2H, J=8.7 Hz), 3.89 (t, 4H, J=4.5 and 4.8 Hz), 3.17 (t, 4H, J=4.5 and 4.8 Hz), 1.34 (s, 9H). 13C{1H}-NMR (100 MHz, CDCl3): δ 148.89, 142.76, 125.95, 115.38, 66.99, 49.54, 33.94, 31.42. GC/MS(EI): m/z 219 (M+), 204 (M+−CH3), 146 (M+−morpholine).

reactant | 4-tert-butylbromobenzene | 0.44 mmol, 94 mg | C(C)(C)(C)C1=CC=C(C=C1)Br | C10H13Br
reactant | morpholine | 0.41 mmol, 36 mg | N1CCOCC1 | C4H9NO
reactant | sodium tert-butoxide | 0.44 mmol, 42 mg | CC(C)([O-])C.[Na+]
product | N-(4-tert-butylphenyl)morpholine | 72 mg, 82% | C(C)(C)(C)C1=CC=C(C=C1)N1CCOCC1 | C14H21NO
